US04061746
α -Methyl-p-phenethylbenzylamine hydrochloride
A mixture of 87.5 g (0.39 mole) of 4'-phenethylacetophenone, M.P. 67°-70° C., prepared according to R. E. Lutz et al., J. Org. Chem. 12, 617 (1947), and 98.5 g (1.56 mole) of ammonium formate is slowly heated to 150° C. with stirring. After the initial foaming has subsided the temperature of the heating bath is raised to 185°-190° C. for a period of 4 hours. Upon cooling, the mixture is treated with several portions of water. To the residue is added 75 ml of concentrated HCl. The mixture is refluxed for 2 hours and is allowed to cool. The resulting solid is collected, washed with several portions of benzene and is recrystallized from isopropanol containing about 5% of water to yield 74.0 g (73% yield) of the desired product, M.P. 212°-214° C.

reactant | 4'-phenethylacetophenone | 0.39 mole, 87.5 g | C(CC1=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C16H16O
reactant | ammonium formate | 1.56 mole, 98.5 g | C(=O)[O-].[NH4+]
reactant | HCl | 75 ml | Cl | ClH
solvent | water | O | H2O
product | Methyl-p-phenethylbenzylamine hydrochloride | 74.0 g, 73% yield | Cl.CNCC1=CC=C(C=C1)CCC1=CC=CC=C1 | InChI=1S/C16H19N.ClH/c1-17-13-16-11-9-15(10-12-16)8-7-14-5-3-2-4-6-14;/h2-6,9-12,17H,7-8,13H2,1H3;1H
